US08017631B2
N-Hydroxy-nicotinamidine (Intermediate Compound)
Nicotinonitrile (1 g; 10 mmol) and 1.3 g of hydroxylamine hydrochloride (19 mmol) were dissolved in 15 ml of water. Sodium carbonate (2 g; 24 mmol) in 10 ml of water was continuously added, the resulting solution was stirred and heated at app. 70° C. for 6 hours. Then no more starting material was left (checked by TLC), the reaction mixture was cooled to room temperature, added sodium chloride until saturation and extracted 4 times with 50 ml of ethyl acetate. The organic layer was dried with sodium sulfate and evaporated to a solid. Yield 1 g (76%) of white solid powder.

reactant | Nicotinonitrile | 10 mmol, 1 g | C(C1=CN=CC=C1)#N | C6H4N2
reactant | hydroxylamine hydrochloride | 19 mmol, 1.3 g | Cl.NO
reactant | Sodium carbonate | 24 mmol, 2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 15 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | N-Hydroxy-nicotinamidine | ONC(C1=CN=CC=C1)=N | C6H7N3O
